US09334267B2
Ethyl 3-(dibenzylamino)propanoate
Heat a solution of ethyl 3-aminopropanoate hydrochloride (80.0 g, 0.52 mol), benzylbromide (186.7 g, 1.1 mol) and K2CO3 (179.4 g, 1.3 mol) in acetonitrile (1 L) at 40° C. overnight. Concentrate the mixture to dryness, treat with water, extract with EtOAc (3×), wash the combined organics with brine, dry over Na2SO4, concentrate to dryness and purify via silica gel chromatography chromatography (Pet Ether/EtOAc, 50:1) to afford the title compound (150 g, 97% yield). 1H NMR (400 MHz, CDCl3): δ 7.35-7.21 (m, 10H), 4.09 (q, J=7.2 Hz, 2H), 3.58 (s, 4H), 2.82 (t, J=7.2 Hz, 2H), 2.50 (t, J=7.2 Hz, 2H), 1.21 (t, J=7.2 Hz, 3H).

reactant | ethyl 3-aminopropanoate hydrochloride | 0.52 mol, 80.0 g | Cl.NCCC(=O)OCC
reactant | benzylbromide | 1.1 mol, 186.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 1.3 mol, 179.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | Ethyl 3-(dibenzylamino)propanoate | 150 g, 97% yield | C(C1=CC=CC=C1)N(CCC(=O)OCC)CC1=CC=CC=C1 | C19H23NO2
